US07517889B2
A solution of 4,6-dichloro-2-methoxymethyl-pyrimidine (250 mg, 1.3 mmol), 2-(2,4-dichloro-phenyl)-ethylamine (196 μL, 1.3 mmol), and sodium bicarbonate (218 mg, 2.6 mmol) in EtOH (5 mL) is heated at 80° C. for three hours and poured into water (20 mL) and extracted thrice with EtOAc (30 mL). The organic extracts are combined and dried over magnesium sulfate, filtered and evaporated. The residue is subjected to chromatography on silica gel eluting with 30% ethyl acetate:heptane to afford (6-chloro-2-methoxymethyl-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine (200 mg, 44%) as a solid.

reactant | 4,6-dichloro-2-methoxymethyl-pyrimidine | 1.3 mmol, 250 mg | ClC1=NC(=NC(=C1)Cl)COC | C6H6Cl2N2O
reactant | 2-(2,4-dichloro-phenyl)-ethylamine | 1.3 mmol, 196 μL | ClC1=C(C=CC(=C1)Cl)CCN | C8H9Cl2N
reactant | sodium bicarbonate | 2.6 mmol, 218 mg | C([O-])(O)=O.[Na+]
reactant | water | 20 mL | O | H2O
solvent | EtOH | 5 mL | CCO | C2H6O
product | (6-chloro-2-methoxymethyl-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine | 200 mg, 44% | ClC1=CC(=NC(=N1)COC)NCCC1=C(C=C(C=C1)Cl)Cl | C14H14Cl3N3O
